US07279469B2
To N-cyano-N′-(3,4-dimethoxy-phenyl)-O-phenylisourea (0.215 g, 0.723 mmoles) in isopropanol (3 mL) was added 0.184 g (1.5 equivalents) of 4-Hydrazino-benzonitrile hydrochloride, followed by triethylamine 152 uL (1.5 equivalents) and catalytic (0.2 equivalents) 4-dimethylaminopyridine. The reaction was stirred overnight at 100 degrees Celsius. The reaction mixture was concentrated to dryness and purified by reverse phase column chromatography. The pure fractions were dried to provide 4-[5-amino-3-(3,4-dimethoxy-phenylamino)-[1,2,4]triazol-1-yl]-benzonitrile as tan solid (18.3 mg, 7.5% yield).

reactant | N-cyano-N′-(3,4-dimethoxy-phenyl)-O-phenylisourea | 0.723 mmoles, 0.215 g | C(#N)NC(OC1=CC=CC=C1)=NC1=CC(=C(C=C1)OC)OC | C16H15N3O3
reactant | 4-Hydrazino-benzonitrile hydrochloride | 0.184 g, 1.5 equivalents | Cl.N(N)C1=CC=C(C#N)C=C1
reactant | triethylamine | 152 uL, 1.5 equivalents | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
catalyst | 4-dimethylaminopyridine | 0.2 equivalents | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[5-amino-3-(3,4-dimethoxy-phenylamino)-[1,2,4]triazol-1-yl]-benzonitrile | 18.3 mg, 7.5% yield | NC1=NC(=NN1C1=CC=C(C#N)C=C1)NC1=CC(=C(C=C1)OC)OC | C17H16N6O2
